US04472433
Preparation of sodium 2-(2-amino-5-phenoxyphenyl)acetate
A mixture of 2-oxo-5-phenoxyindoline (3.5 g.), sodium hydroxide (1.24 g), dioxane (20 ml.) and water (20 ml.) was refluxed under heating for a week with stirring. The reaction mixture was concentrated to dryness and the residue was dissolved in water (50 ml.) under heating and filtered. The filtrate was washed with diethyl ether and evaporated. The residue was dissolved in ethanol (100 ml.) under heating and filtered. The filtrate was concentrated at ordinal pressure to a volume of 30 ml. The concentrate was allowed to stand for one day at ambient temperature, and the precipitates were collected by filtration to give crystals of the captioned compound (2.5 g.). mp 239° to 242° C.

reactant | 2-oxo-5-phenoxyindoline | 3.5 g | O=C1NC2=CC=C(C=C2C1)OC1=CC=CC=C1 | C14H11NO2
reactant | sodium hydroxide | 1.24 g | [OH-].[Na+]
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 20 ml | O | H2O
product | sodium 2-(2-amino-5-phenoxyphenyl)acetate | NC1=C(C=C(C=C1)OC1=CC=CC=C1)CC(=O)[O-].[Na+] | InChI=1S/C14H13NO3.Na/c15-13-7-6-12(8-10(13)9-14(16)17)18-11-4-2-1-3-5-11;/h1-8H,9,15H2,(H,16,17);/q;+1/p-1
